US04801593
Preparation of 2-phenyl-1,2,3,4-tetrahydroisoquinoline hydrochloride
2-phenyl-1,2,3,4-tetrahydroisoquinoline (0.5 g,) was dissolved in 2M hydrochloric acid (10 ml). The resulting murky solution was cleared by filtering through a pad of diatomaceous earth and freeze-dried when 2-phenyl-1,2,3,4-tetrahydroisoquinoline hydrochloride was obtained as a yellow glass (670 mg) m.pt. 135°-138° characterised by its nmr spectrum.

reactant | 2-phenyl-1,2,3,4-tetrahydroisoquinoline | 0.5 g | C1(=CC=CC=C1)N1CC2=CC=CC=C2CC1 | C15H15N
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
product | 2-phenyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | 670 mg | Cl.C1(=CC=CC=C1)N1CC2=CC=CC=C2CC1 | InChI=1S/C15H15N.ClH/c1-2-8-15(9-3-1)16-11-10-13-6-4-5-7-14(13)12-16;/h1-9H,10-12H2;1H
